US07262185B2
To a suspension of 3-hydroxy-4-nitrobenzaldehyde (7.0 g) and potassium carbonate (8.1 g) in DMF (100 ml), iodoethane (8.3 g) was added dropwise under nitrogen atmosphere. The mixture was stirred overnight, water was added to the mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with water once and saturated brine once, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=0.1:1), and recrystallized from hexane-ethyl acetate, to give 3-ethoxy-4-nitrobenzaldehyde (5.7 g) as yellow crystals.

reactant | 3-hydroxy-4-nitrobenzaldehyde | 7.0 g | OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H5NO4
reactant | potassium carbonate | 8.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 8.3 g | ICC | C2H5I
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-ethoxy-4-nitrobenzaldehyde | 5.7 g | C(C)OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C9H9NO4
